US06107301
Part C: 2-Bromo-4-(1-methylethyl)aniline (0.26 g) and 2-chloro-4-methyl-6-(2-thienyl)pyrimidine (0.21 g) in ethylene glycol were heated at reflux for 24 hours. The reaction mixture was diluted with ethyl acetate, washed with aq. sodium hydroxide solution (10%, 3×100 mL) and the organic phase was dried. Solvent removal gave a crude brown oil, which was purified on silica gel using 20% ethyl acetate in hexanes (Rf 0.5) as eluent to provide N-(2-bromo-4-isopropylphenyl)-4-methyl-6-(2-thienyl)-2-pyrimidinamine (0.1 g) as a solid, mp 98-101° C. Mass spec (NH3 --CI/DDIP); 390 (M+H)+.

reactant | 2-Bromo-4-(1-methylethyl)aniline | 0.26 g | BrC1=C(N)C=CC(=C1)C(C)C | C9H12BrN
reactant | 2-chloro-4-methyl-6-(2-thienyl)pyrimidine | 0.21 g | ClC1=NC(=CC(=N1)C)C=1SC=CC1 | C9H7ClN2S
solvent | ethylene glycol | C(CO)O | C2H6O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-bromo-4-isopropylphenyl)-4-methyl-6-(2-thienyl)-2-pyrimidinamine | 0.1 g | BrC1=C(C=CC(=C1)C(C)C)NC1=NC(=CC(=N1)C)C=1SC=CC1 | C18H18BrN3S
